US05250527
Phosphoryl chloride (8.6 ml) in dichloromethane (50 ml) was added to a stirred solution of 2,3-dimethyl-4-nitro-5-fluoropyridine (5.8 g) in dichloromethane (100 ml). The reaction mixture was heated under reflux for 4 hours. After cooling and pouring onto ice, the mixture was basified (NaOH) to pH 12 and extracted with dichloromethane. After drying (K2CO3) and removal of solvent, the crude product was purified by column chromatography (silica gel, 2%MeOH/CHCl3) to give 2,3-dimethyl-4-chloro-5-fluoropyridine-N-oxide (4.11 g) m.p. 137°-39°.

reactant | Phosphoryl chloride | 8.6 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2,3-dimethyl-4-nitro-5-fluoropyridine | 5.8 g | CC1=NC=C(C(=C1C)[N+](=O)[O-])F | C7H7FN2O2
reactant | NaOH | [OH-].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2,3-dimethyl-4-chloro-5-fluoropyridine-N-oxide | 4.11 g | CC1=[N+](C=C(C(=C1C)Cl)F)[O-] | C7H7ClFNO
